US03988444
A mixture of 6.8 g of 4-carbethoxy-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one and 6 ml of 10 N sodium hydroxide in 100 ml of water was refluxed for 3 hours and then cooled to 20° C. 6 ml of 10 N hydrochloric acid were added thereto and the mixture was vacuum filtered. The precipitate was washed with acetone and 1 g of the raw product was taken up in a solution of 0.42 g of sodium bicarbonate in 40 ml of water. The mixture was stirred for 1 hour, was washed with ethyl acetate and was acidified with 1 N hydrochloric acid. The mixture was vacuum filtered and the precipitate was washed with water and dried to obtain 0.5 g of 4-carboxy-2,3,4,5,6,7-hexahydrobenzothiazole-2-one melting at 192° C.

reactant | 4-carbethoxy-2,3,4,5,6,7-hexahydrobenzothiazoline-2-one | 6.8 g | C(=O)(OCC)C1CCCC2=C1NC(S2)=O | C10H13NO3S
reactant | sodium hydroxide | 10 N, 6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 10 N, 6 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4-carboxy-2,3,4,5,6,7-hexahydrobenzothiazole-2-one | 0.5 g | C(=O)(O)C1CCCC2=C1NC(S2)=O | C8H9NO3S
